US05190690
Step i) In a 50 ml-three-necked flask, 0.70 g (2.15 mM) of 2-amino-4-(4-decylphenyl)phenol, 0.48 g (2.21 mM) of trans-4-pentylcyclohexylcarbonyl chloride and 20 ml of dioxane were placed. To the mixture, 0.77 ml of pyridine was gradually added dropwise at about 87° C. under stirring, followed by heat-stirring for 1.5 hours at about 87° C. After the reaction, the reaction mixture was poured into 150 ml of water to precipitate a crystal. The crystal was recovered by filtration, washed with methanol and recrystallized from toluene to obtain 0.61 g of 2-(trans-4-pentylcyclohexylcarbonylamino)-4-(4-decylphenyl)phenol (yield: 56.1%).

reactant | 2-amino-4-(4-decylphenyl)phenol | 2.15 mM, 0.70 g | NC1=C(C=CC(=C1)C1=CC=C(C=C1)CCCCCCCCCC)O | C22H31NO
reactant | trans-4-pentylcyclohexylcarbonyl chloride | 2.21 mM, 0.48 g | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)Cl | C12H21ClO
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | pyridine | 0.77 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 150 ml | O | H2O
product | 2-(trans-4-pentylcyclohexylcarbonylamino)-4-(4-decylphenyl)phenol | 0.61 g, yield: 56.1% | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)NC1=C(C=CC(=C1)C1=CC=C(C=C1)CCCCCCCCCC)O | C34H51NO2
